US04080453
dl-1-(3-Methylcrotonyl)-4-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine
In methanol (300 ml) is dissolved dl-N-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine (3.5 g) and thereto are added water (6 ml) and potassium carbonate (3.3 g). To the mixture is further added dropwise with stirring 3,3-dimethylacryloyl chloride (1.9 g) over a period of about 1 hour. The mixture is stirred at room temperature for 2 hours, and then the solvent is distilled off under reduced pressure. To the residue is added a 10% sodium carbonate aqueous solution and the mixture is extracted with chloroform. The chloroform layer is dried over anhydrous sodium sulfate, and the solvent is distilled off to give the desired compound (3.6 g), which is recrystallized from methanol to give coloress crystals, melting point: 186°-187° C.

reactant | N-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine | 3.5 g | OC=1C=C(C=CC1)CC(C1=CC=CC=C1)N1CCNCC1 | C18H22N2O
reactant | water | 6 ml | O | H2O
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,3-dimethylacryloyl chloride | 1.9 g | CC(=CC(=O)Cl)C | C5H7ClO
solvent | methanol | 300 ml | CO | CH4O
product | 1-(3-Methylcrotonyl)-4-[2-(3-hydroxyphenyl)-1-phenylethyl]piperazine | 3.6 g | CC(=CC(=O)N1CCN(CC1)C(CC1=CC(=CC=C1)O)C1=CC=CC=C1)C | C23H28N2O2
